US06528543B1
A solution of 3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionamide (54 mg, 0,19 mmol) in toluene (5 mL) was treated with methyl isocyanate (0.03 mL, 0.47 mmol). The resulting solution was heated under reflux for 24 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh 70/30 hexanes/ethyl acetate) afforded 1-[3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionyl]-3-methyl-urea (40 mg, 63%) as a white solid: mp 124.8-127.5° C.; [α]23589=−21.2° (c=0.099, chloroform); EI-HRMS m/e calcd for C16H20Cl2N2O2 (M+) 342.0902, found 342.0902.

reactant | 3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionamide | 0,19 mmol, 54 mg | C1(CCCC1)C[C@@H](C(=O)N)C1=CC(=C(C=C1)Cl)Cl | C14H17Cl2NO
reactant | methyl isocyanate | 0.47 mmol, 0.03 mL | CN=C=O | C2H3NO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionyl]-3-methyl-urea | 40 mg, 63% | C1(CCCC1)C[C@@H](C(=O)NC(=O)NC)C1=CC(=C(C=C1)Cl)Cl | C16H20Cl2N2O2
